US07572805B2
Part G. (±)-trans-1-tert-Butyl 3-methyl 4-(3-chloro-2-(ethoxycarbonyl)-5-propylphenyl)pyrrolidine-1,3-dicarboxylate
To a solution of (±)-trans-methyl 1-benzyl-4-(3-chloro-2-(ethoxycarbonyl)-5-propylphenyl)pyrrolidine-3-carboxylate (0.97 g, 2.18 mmol) in 20 mL of toluene was added 1-chloroethyl chloroformate (0.47 mL, 4.37 mmol). The reaction was stirred at 100° C. for 3 h. Starting material still remained so an additional portion of 1-chloroethyl chloroformate (0.2 mL, 1.8 mmol) was added and stirring was continued at 100° C. for 1 h. The reaction was allowed to cool and was diluted with ethyl acetate. The organics were washed with sat'd aq NaHCO3 and brine, dried (Na2SO4) and concentrated. The residue was taken up in methanol (20 mL) and stirred at 65° C. for 1 h. The reaction was allowed to cool and was concentrated in vacuo. The residue was taken up in 10 mL of methylene chloride and then there was added triethylamine (0.67 mL, 4.8 mmol) and di-tert-butyl dicarbonate (0.52 g, 2.4 mmol). The reaction was stirred at ambient temperature for 1 h. The methylene chloride was removed in vacuo and the residue was taken up in EtOAc. The organics were washed with 1N HCl, sat'd aq NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (230-400 mesh silica gel, elution with 8:1 hexane/EtOAc) to afford 0.78 g (79%) of the title compound. LRMS (ES)+: 354.18/356.16 (M+H—BOC)+.

reactant | (±)-trans-methyl 1-benzyl-4-(3-chloro-2-(ethoxycarbonyl)-5-propylphenyl)pyrrolidine-3-carboxylate | 2.18 mmol, 0.97 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=C(C(=CC(=C1)CCC)Cl)C(=O)OCC)C(=O)OC | C25H30ClNO4
reactant | 1-chloroethyl chloroformate | 4.37 mmol, 0.47 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1-chloroethyl chloroformate | 1.8 mmol, 0.2 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | triethylamine | 4.8 mmol, 0.67 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.4 mmol, 0.52 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-trans-1-tert-Butyl 3-methyl 4-(3-chloro-2-(ethoxycarbonyl)-5-propylphenyl)pyrrolidine-1,3-dicarboxylate | 0.78 g, 79% | ClC=1C(=C(C=C(C1)CCC)[C@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)C(=O)OCC | C23H32ClNO6
